US04739066
In 20 ml of ethanol is dissolved 0.56 g of sodium, and 7.3 g of ethyl 6-(1-benzoyloxycarbonyl-4-piperidyl)hexanoate and 3.5 g of diethyl oxalate are added to the solution, followed by evaporation under reduced pressure at 60° to 70° C. for 20 minutes and at 75° C. for 20 minutes to remove a low-boiling substance. After cooling, 100 ml of water is added to the resulting brown viscous material, and the mixture is made acidic with hydrochloric acid and extracted with 300 ml of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Dimethylsulfoxide (50 ml), 5 ml of water and 1.5 g of lithium chloride are added to the resulting oily material, followed by stirring at 140° to 160° C. for 40 minutes. After cooling, 300 ml of water is added to the reaction solution, which is then extracted with 300 ml of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 6.5 g of ethyl 7-(1-benzyloxycarbonyl-4-piperidyl)-2-oxoheptanoate as an oily material.

reactant | sodium | 0.56 g | [Na] | Na
reactant | ethyl 6-(1-benzoyloxycarbonyl-4-piperidyl)hexanoate | 7.3 g | C(C1=CC=CC=C1)(=O)OC(=O)N1CCC(CC1)CCCCCC(=O)OCC | C21H29NO5
reactant | diethyl oxalate | 3.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 7-(1-benzyloxycarbonyl-4-piperidyl)-2-oxoheptanoate | 6.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCC(C(=O)OCC)=O | C22H31NO5
